US04621084
5-(3-Methylimidazo[1,2-? ? pyridin-2-yl)2-benzothiazolinone (1.07 g) was prepared in the substantially same manner as that of Example 2 from 5-(2-bromopropionyl)-2-benzothiazolinone (2.86 g) and 2-aminopyridine (2.8 g). mp.>290° C.(from aqueous ethanol),

reactant | 5-(2-bromopropionyl)-2-benzothiazolinone | 2.86 g | BrC(C(=O)C=1C=CC2=C(NC(S2)=O)C1)C | C10H8BrNO2S
reactant | 2-aminopyridine | 2.8 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | C(C)O | C2H6O
product | 2-benzothiazolinone | 1.07 g | S1C(NC2=C1C=CC=C2)=O | C7H5NOS
